US05166397
913 mg of (1RS, 2RS, 3SR)-2,3-bis(hydroxymethyl)-1-cyclobutylamine was dissolved in 30 ml of methanol. Then 1340 mg of N-acetyl-L-phenylglycine was added thereto to form salt. The reaction mixture was concentrated under reduced pressure. 15 ml of isopropyl alcohol was added to the residue followed by fractional recrystallization. Thus 403.8 mg of (1R, 2R, 3S)-2,3-bis(hydroxymethyl)-1-cyclobutylamine/N-acetyl-L-phenylglycine salt was obtained.

reactant | 2,3-bis(hydroxymethyl)-1-cyclobutylamine | OCC1C(CC1CO)N | C6H13NO2
reactant | N-acetyl-L-phenylglycine | 1340 mg | CC(=O)N(CC(=O)O)C1=CC=CC=C1 | C10H11NO3
solvent | methanol | 30 ml | CO | CH4O
product | (1R, 2R, 3S)-2,3-bis(hydroxymethyl)-1-cyclobutylamine N-acetyl-L-phenylglycine | 403.8 mg | OC[C@H]1[C@@H](C[C@@H]1CO)N.CC(=O)N(CC(=O)O)C1=CC=CC=C1 | InChI=1S/C10H11NO3.C6H13NO2/c1-8(12)11(7-10(13)14)9-5-3-2-4-6-9;7-6-1-4(2-8)5(6)3-9/h2-6H,7H2,1H3,(H,13,14);4-6,8-9H,1-3,7H2/t;4-,5-,6-/m.1/s1
